US07687627B2
Cis and Trans Mixture (S)-N-{3-[4-(4-Trifluoromethyl-3-methyl-4-hydroxypiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
By reacting (S)-N-{3-[4-(4-oxo-3-methyl-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (2.40 mmol) and trifluoromethyl magnesium bromide (2.6 mmol) in tetrahydrofuran (20 ml) followed by silica gel chromatographic separation of diastereomer the compound was obtained in 78% yield. M.P. 144-146° C. and MS (M+1)=434 (MH+, 100%) for M.F.=C19H23F4N3O4.

reactant | (S)-N-{3-[4-(4-oxo-3-methyl-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 2.40 mmol | O=C1C(CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)C | C18H22FN3O4
reactant | trifluoromethyl magnesium bromide | 2.6 mmol | FC(F)(F)[Mg]Br
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (S)-N-{3-[4-(4-Trifluoromethyl-3-methyl-4-hydroxypiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 78% yield | FC(C1(C(CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)C)O)(F)F | C19H23F4N3O4
